US07582629B2
2-Butyl-5-(3-chlorophenyl)-4-{[4-(difluoromethoxy)phenyl]amino}isothiazol-3(2H)-one 1,1-dioxide
2-Butyl-4-chloro-5-(3-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide (0.250 g, 0.75 mmol) and 4-(difluoromethoxy)aniline (0.238 g, 1.50 mmol) were mixed in MeCN (2 mL) and heated in a microwave reactor at 160° C. for 60 mins. The reaction mixture was evaporated and the residue was purified on a Horizon TM flash system using Heptane and EetOAc as eluant giving the title compound (0.25 g, 72.9%). 1H-NMR (500 MHz, CDCl3): δ 7.25-7.1 (m, 4H), 7.0 (s, 1H), 6.9-6.7 (dd, 4H), 6.4 (t, 1H, J=Hz), 3.8 (t, 2H), 1.95-1.8 (m, 2H), 1.55-1.45 (m, 2H), 1.05 (t, 3H); 13C-NMR (125 MHz, CDCl3): δ179.6, 159.0, 134.4, 133.3, 132.0, 129.9, 129.6, 129.6, 127.3, 124.3, 120.4, 115.9, 40.6, 30.4, 23.6, 20.3, 13.7; Mass Spectrum: M−H+ 456.

reactant | 2-Butyl-4-chloro-5-(3-chlorophenyl)isothiazol-3(2H)-one 1,1-dioxide | 0.75 mmol, 0.250 g | C(CCC)N1S(C(=C(C1=O)Cl)C1=CC(=CC=C1)Cl)(=O)=O | C13H13Cl2NO3S
reactant | 4-(difluoromethoxy)aniline | 1.50 mmol, 0.238 g | FC(OC1=CC=C(N)C=C1)F | C7H7F2NO
solvent | MeCN | 2 mL | CC#N | C2H3N
product | 2-Butyl-5-(3-chlorophenyl)-4-{[4-(difluoromethoxy)phenyl]amino}isothiazol-3(2H)-one 1,1-dioxide | 0.25 g, 72.9% | C(CCC)N1S(C(=C(C1=O)NC1=CC=C(C=C1)OC(F)F)C1=CC(=CC=C1)Cl)(=O)=O | C20H19ClF2N2O4S
